US09340549B2
A glass microwave reaction vessel was charged with (S)-5,5-dimethyl-4-phenyl-3-(piperidin-4-yl)oxazolidin-2-one (50 mg, 0.182 mmol), 6-bromo-1-(pyrimidin-2-yl)-1H-pyrrolo[3,2-b]pyridine (50.1 mg, 0.182 mmol), 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl (8.50 mg, 0.018 mmol, Sigma-Aldrich), chloro(2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl)[2-(2-aminoethylphenyl)]palladium(II)-dichloromethane (13.81 mg, 0.018 mmol, Sigma-Aldrich) and sodium tert-butoxide (26.3 mg, 0.273 mmol). The vessel was capped and evacuated and refilled with argon three times. Dioxane (364 μl) was then added to the reaction mixture. The mixture was stirred and heated at 100° C. overnight. After cooling to room temperature, the material was purified by Waters Auto purification HPLC (Column: Xbridge 19×100 mm; Flow rate: 40 mL/min; Mobile phase: 0.1% NH4OH in ACN and water; Gradient: 20-75% B in 8 min with total run time of 10 min) to provide (S)-5,5-dimethyl-4-phenyl-3-(1-(1-(pyrimidin-2-yl)-1H-pyrrolo[3,2-b]pyridin-6-yl)piperidin-4-yl)oxazolidin-2-one as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 8.73 (d, J=5.56 Hz, 2H), 8.52-8.60 (m, 1H), 8.32 (d, J=4.49 Hz, 1H), 8.07-8.20 (m, 1H), 7.26-7.42 (m, 3H), 7.15-7.25 (m, 4H), 6.63 (d, J=3.53 Hz, 1H), 4.59 (s, 1H), 3.70 (d, J=11.22 Hz, 1H), 3.51-3.64 (m, 2H), 2.76 (qt, J=2.89, 12.50 Hz, 1H), 2.04-2.18 (m, 1H), 1.83-1.94 (m, 1H), 1.59-1.70 (m, 1H), 1.48-1.58 (m, 1H), 1.46 (s, 3H), 0.80 (s, 3H). m/z (ESI) 469.2 (M+H)+.

reactant | (S)-5,5-dimethyl-4-phenyl-3-(piperidin-4-yl)oxazolidin-2-one | 0.182 mmol, 50 mg | CC1([C@@H](N(C(O1)=O)C1CCNCC1)C1=CC=CC=C1)C | C16H22N2O2
reactant | 6-bromo-1-(pyrimidin-2-yl)-1H-pyrrolo[3,2-b]pyridine | 0.182 mmol, 50.1 mg | BrC=1C=C2C(=NC1)C=CN2C2=NC=CC=N2 | C11H7BrN4
reactant | 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl | 0.018 mmol, 8.50 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | sodium tert-butoxide | 0.273 mmol, 26.3 mg | CC(C)([O-])C.[Na+]
catalyst | chloro(2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl)[2-(2-aminoethylphenyl)]palladium(II) dichloromethane | 0.018 mmol, 13.81 mg | COC1=C(C(=CC=C1)OC)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4.C1=CC(=C[C-]=C1)CCN.[Cl-].[Pd+2].ClCCl
product | (S)-5,5-dimethyl-4-phenyl-3-(1-(1-(pyrimidin-2-yl)-1H-pyrrolo[3,2-b]pyridin-6-yl)piperidin-4-yl)oxazolidin-2-one | CC1([C@@H](N(C(O1)=O)C1CCN(CC1)C=1C=C2C(=NC1)C=CN2C2=NC=CC=N2)C2=CC=CC=C2)C | C27H28N6O2
